US20010056109A1
5-(2,3-Dihydro-1-hydroxy-3-phenyl-1H-inden-1-yl)-1H-imidazole-1-sulfonic acid dimethylamide
A 1.1 M solution of tetrabutylammonium fluoride in tetrahydrofuran (1.4 ml, 1.54 mmol) was added dropwise to the solution of 2-(tert-butyidimethylsilanyl)-5-(2,3-dihydro-1-hydroxy-3-phenyl-1H-inden-1-yl)-1H-imidazole-1-sulfonic acid dimethylamide (637 mg, 1.28 mmol) in tetrahydrofuran (13 ml). The reaction was stirred overnight at room temperature. The reaction was quenched with water and then extracted with ethyl acetate. The organic layer was washed with water and brine. The organic phase was dried and the solvent removed under reduced pressure. The product was recrystallized in ethyl acetate.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-(tert-butyidimethylsilanyl)-5-(2,3-dihydro-1-hydroxy-3-phenyl-1H-inden-1-yl)-1H-imidazole-1-sulfonic acid dimethylamide | 1.28 mmol, 637 mg | CN(S(=O)(=O)N1C(=NC=C1C1(CC(C2=CC=CC=C12)C1=CC=CC=C1)O)[Si](C)(C)C(C)(C)C)C | C26H35N3O3SSi
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.54 mmol, 1.4 ml | O1CCCC1 | C4H8O
product | 5-(2,3-Dihydro-1-hydroxy-3-phenyl-1H-inden-1-yl)-1H-imidazole-1-sulfonic acid dimethylamide | CN(S(=O)(=O)N1C=NC=C1C1(CC(C2=CC=CC=C12)C1=CC=CC=C1)O)C | C20H21N3O3S
